US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]ethanesulfonamide
The title compound was prepared using analogous conditions to those described in Example 34 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and N-(2-bromophenyl)ethanesulfonamide. MS (ESI): mass calcd. for C18H17FN4O2S, 372.11; m/z found, 372.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 9.08 (s, 1H), 8.43-8.36 (m, 1H), 8.04 (d, J=1.0, 1H), 7.93 (m, 1H), 7.46-7.28 (m, 6H), 6.72 (s, 2H), 2.91 (q, J=7.4, 2H), 1.07 (t, J=7.3, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | N-(2-bromophenyl)ethanesulfonamide | BrC1=C(C=CC=C1)NS(=O)(=O)CC | C8H10BrNO2S
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]ethanesulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)CC)F | C18H17FN4O2S
